Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / amoxicillin / oxycodone / shellfish derived / 
hydromorphone
 
Attending: ___.
 
Chief Complaint:
headache, fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ old left-handed woman with a history 
of developmental CNS abnormalities, migraine and strep pneumo 
meningitis who presents with recurrent fever and persistent 
headache.

___ was recently admitted to the General Neurology service for 
similar complaints from ___. She had completed a 14-day 
course of IV ceftriaxone for strep pneumo meningitis and was off 
all antibiotic therapy. She was still having constant headaches 
and was discharged on a prednisone burst, prophylactic 
gabapentin, and abortive reglan, tramadol, and ibuprofen. During 
the past five days her headache has continued basically 
unchanged; about a ___, occipital headache with nausea, 
photophobia and phonophonia. She has been spending most of her 
time on the couch, and is taking all of her PRN medications 
around the clock (ibuprofen q8, tramadol q6, gabapentin TID, 
reglan/Benadryl q8) with minimal improvement. She has not had 
any new symptoms and she has been able to eat three meals a day 
with snacks and is drinking Gatorade. Given her persistent 
symptoms, ___ was to follow up with her PCP tomorrow and her 
neurologist and ID docs the day after. However, last night she 
started to feel very cold and her temperature was 101, so she 
presented to the ED. In addition to the headache she endorses 
some recent neck soreness but has no other infectious symptoms.

Ms. ___ recent course is excellently summarized in Dr. ___ 
___ admission note on ___. Briefly, she presented to ___ 
___ with fever to 102.4 on ___ in the setting of a 
throbbing, holocephalic headache which had persisted the past 
three days. In the setting of her congenital brain 
malformations, she was transferred to ___ for neurosurgical 
evaluation. No intervention was performed, but LP was deferred 
given concern for crowding of the foramen magnum. She had a 
leukocytosis to 29.6 with left shift and blood cultures were 
positive for strep pneumo and she was empirically treated for 
strep pneumo meningitis. She was discharged with a midline and a 
plan to complete 14 days of IV ceftriaxone from the last 
negative blood culture. Unfortunately, she had persistent 
headache and returned to ___. She was seen in 
Neurology Clinic at ___ on ___ and was admitted to the 
General Neurology service. During that admission, she underwent 
MRI/MRV which showed a hypoplastic left transverse sinus; she 
was briefly on a heparin gtt for CVST which was stopped after it 
was clear that the left transverse sinus was patent. A repeat LP 
was performed which showed a lymphocytic pleocytosis with normal 
protein and glucose which was thought to be consistent with 
resolving infection. She did have a urine culture which was 
positive for VRE in the setting of a normal UA and no symptoms; 
this was thought to be a contaminant and was not treated. During 
her hospitalization she completed her planned 14-day course of 
ceftriaxone. She started a prednisone burst (60 mg for five 
days) and was discharged home on gabapentin with several choices 
of abortive therapies and a warning to avoid medication overuse.

She does have a history of continuous severe headache in ___ 
which lasted for two months, was unresponsive to all abortive 
agents, and resolved slowly after starting gabapentin. The 
etiology of that episode remains unclear.
 
Past Medical History:
- Strep pneumo bacteremia and meningitis (presumed), ___, s/p 
Ceftriaxone x7 days
- Agenesis of the corpus callosum, colpocephaly, and Chiari 
malformation
- Headaches, migraines
- Hammer toes s/p surgical repair
 
Social History:
___
Family History:
Sisters x2 with Cystic Fibrosis; (patient is a carrier)
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
T:101.6; HR147; BP 131/80; RR 16; SpO2 96% RA 
General: Thin girl, lying in bed with icepack on her head, in a
darkened room. Face and limbs are elongated.
HEENT: NC/AT. Temporal pulses are palpable there is no clunk at
the TMJ, occipital tinels is negative.
Neck: Supple, no nuchal rigidity; Kernig's and Brudzinski's are
negative.
Pulmonary: Normal work of breathing on room air. Vesicular 
breath
sounds bilaterally, no wheezes or crackles appreciated.
Cardiac: S1/S2 appreciated, RRR, no M/R/G.
Abdomen: Thin, soft, nontender, nondistended
Extremities: No lower extremity edema
Skin: NO rashes or lesions noted.
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty. Attentive to reciting ___ backwards. 
Language
is fluent and intact to repetition, comprehension of cross body,
multistep and grammatically complex commands, and naming of both
high and low frequency objects.  Speech was not dysarthric.  
Able
to register 3 objects and recall ___ at 5 minutes, 1 with
category cue and 1 with multiple choice. There was no evidence 
of
apraxia or neglect.
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 3 mm without RAPD and brisk bilaterally. VFF to
confrontation with finger counting. Funduscopic exam was
difficult due to compliance. The visualized portions of the left
disk were crisp.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch, pinprick in all
distributions, and masseter is full.
VII: Face is symmetric at rest and with activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, and excursion is full.
 
-Motor: Normal bulk, tone throughout. Left pronation without
drift. One beat of asterixis in left hand.
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  4+  5   4+  4+  5   4+ 4+  4+  ___    5     5-  5-
R  ___   ___  4+  ___   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2+   2     2+    3    2
R   2    2     2     3    2
- Plantar response was flexor bilaterally.
- Crossed Adductors are present bilaterally.
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
-Coordination: No intention tremor or dyssynergia on ___
bilaterally. No dysmetria on HKS bilaterally.
-Gait: not tested

========================
DISCHARGE PHYSICAL EXAM:
========================
VS: Tc/Tm 98.1/98.3 | HR ___ | BP ___ | RR 18 | O2 96% 
RA
General: Thin young adult female, in pain due to headache. Lying 
in bed with icepacks on head and neck.
HEENT: PERRL. EOMI. Able to examine pupils with penlight without 
recoil.
Neck: Moving easily with normal ROM. No cervical point 
tenderness.
CV: RRR, +S1/S2. No murmurs. 
Lungs:  CTAB. No wheezes, rubs.
Abdomen:  Soft, nontender. No organomegaly. No masses.
Ext: No edema. WWP. DP 2+ b/L
Neuro:  CN2-12 intact. Strength ___ b/L in flexion and extension 
of all 4 extremities. Slight LEFT pronator drift.
Skin:  No rashes, no wounds, no petechiae. 
 
Pertinent Results:
================
ADMISSION LABS:
================
___ 06:00AM   ___ PTT-25.4 ___
___ 06:00AM   PLT COUNT-356
___ 06:00AM   NEUTS-73.5* LYMPHS-14.7* MONOS-9.2 EOS-0.9* 
BASOS-0.5 IM ___ AbsNeut-11.36*# AbsLymp-2.28 AbsMono-1.43* 
AbsEos-0.14 AbsBaso-0.08
___ 06:00AM   WBC-15.5*# RBC-4.31# HGB-14.7# HCT-42.8# 
MCV-99* MCH-34.1* MCHC-34.3 RDW-13.0 RDWSD-46.5*
___ 06:00AM   GLUCOSE-114* UREA N-13 CREAT-0.8 SODIUM-129* 
POTASSIUM-4.0 CHLORIDE-88* TOTAL CO2-31 ANION GAP-14
___ 06:08AM   LACTATE-2.5*

==========
KEY LABS:
==========
___ 06:00AM BLOOD Parst S-NEGATIVE
___ 06:05AM BLOOD Parst S-NEGATIVE
___ 05:55AM BLOOD Ret Aut-1.9 Abs Ret-0.05
___ 05:55AM BLOOD calTIBC-212* VitB12-426 Folate-7.3 
Ferritn-711* TRF-163*
___ 06:20AM BLOOD Hapto-283*
___ 05:55AM BLOOD Calcium-8.4 Phos-4.0 Mg-1.8 Iron-79
___ 05:55AM BLOOD TSH-3.8
___ 07:25PM BLOOD CRP-100.7*
___ 07:50AM BLOOD CRP-6.1*
___ 05:55AM BLOOD HIV Ab-Negative
___ 06:20AM BLOOD SED RATE-45      
___ 12:53PM BLOOD LYME DISEASE ANTIBODY, 
IMMUNOBLOT-NEGATIVE 
___ 07:25PM BLOOD SED RATE-41      
___ 06:00AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-NEGATIVE      
___ 12:53PM BLOOD VARICELLA ZOSTER ANTIBODY, IGM-NEGATIVE   
  
___ 12:53PM BLOOD HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY 
IGM-NEGATIVE     

=================
DISCHARGE LABS:
=================
___ 06:20AM BLOOD WBC-10.3* RBC-3.23* Hgb-10.8* Hct-32.4* 
MCV-100* MCH-33.4* MCHC-33.3 RDW-12.9 RDWSD-46.5* Plt ___
___ 06:20AM BLOOD Glucose-82 UreaN-15 Creat-0.6 Na-138 
K-4.0 Cl-103 HCO3-26 AnGap-13
___ 06:20AM BLOOD Calcium-9.1 Phos-4.2 Mg-2.0

==============
MICROBIOLOGY:
==============
___ 02:21PM CEREBROSPINAL FLUID (CSF) WBC-17 RBC-0 Polys-1 
___ ___ 02:21PM CEREBROSPINAL FLUID (CSF) WBC-13 RBC-1* Polys-0 
___ ___ 02:21PM CEREBROSPINAL FLUID (CSF) BORRELIA BURGDORFERI 
ANTIBODY INDEX FOR CNS INFECTION-NOT PERFORMED DUE TO NEG SERUM
___ 02:21PM CEREBROSPINAL FLUID (CSF) LISTERIA 
ANTIBODY-NEGATIVE     
___ 02:21PM CEREBROSPINAL FLUID (CSF) ___ VIRUS, 
QUAL TO QUANT, PCR-NEGATIVE
___ 02:21PM CEREBROSPINAL FLUID (CSF) VARICELLA DNA 
(PCR)-NEGATIVE   
___ 02:21PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR-NEGATIVE 
___ 06:09PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 06:20AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

___ 6:00 am BLOOD CULTURE     Site: ARM    **FINAL REPORT 
___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

URINE CULTURE (Final ___:    NO GROWTH. 

___ 2:21 pm CSF;SPINAL FLUID      Source: LP. 
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 
   FLUID CULTURE (Final ___:    NO GROWTH. 
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
   ACID FAST CULTURE (Preliminary): 
      The sensitivity of an AFB smear on CSF is very low.. 
      If present, AFB may take ___ weeks to grow.. 

___ LYME SEROLOGY (Final ___: 
      EIA RESULT NOT CONFIRMED BY WESTERN BLOT. 
      EQUIVOCAL BY EIA. 
      NEGATIVE BY WESTERN BLOT. 
      
___ 12:53 pm Blood (CMV AB)
   CMV IgG ANTIBODY (Final ___:  NEGATIVE FOR CMV IgG 
ANTIBODY BY EIA. 
      
___ 12:53 pm Blood (EBV)
   ___ VIRUS VCA-IgG AB (Final ___:    NEGATIVE 
BY EIA. 
   ___ VIRUS EBNA IgG AB (Final ___:    NEGATIVE 
BY EIA. 
   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 

___ 6:09 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 
   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      
___ 7:25 pm CRYPTOCOCCAL ANTIGEN (Final ___: NOT 
DETECTED. 

___ 1:57 pm URINE CULTURE (Final ___:    <10,000 
organisms/ml. 

================
IMAGING/STUDIES:
================
___ CHEST XR FINDINGS: The cardiomediastinal and hilar 
contours are normal.  There is no pleural effusion or 
pneumothorax.  Lungs are well-expanded without focal 
consolidation
concerning for pneumonia.  There is also no pulmonary edema.  An 
azygos fissure is incidentally noted.  The upper abdomen is 
unremarkable.
IMPRESSION:  No acute cardiopulmonary process.

___ MRI/MRA/MRV: FINDINGS: 
Has been no significant interval change in the appearance of the 
brain and
venous structures compared with the previous MRI and MRV 
examination.
No acute infarcts are identified.  Agenesis of corpus callosum 
and associated
findings are again seen.  A punctate micro hemorrhage in the 
right frontal
lobe is also again seen.  No abnormal parenchymal enhancement is 
seen.  Coal
post cephaly again identified without hydrocephalus.
Chiari 1 malformation with cerebellar tonsils below the level of 
foramen
magnum are again noted.
The MRV and post gadolinium images in demonstrate variation in 
the appearance
of the internal cerebral vein and anterior superior sagittal 
sinus.  There is
dural sinuses appear patent and there is no evidence of venous 
sinus
thrombosis.
IMPRESSION: No change in appearance of brain or venous 
structures compared with the MRI of ___.  No acute 
infarcts are seen.  No evidence of dural venous sinus
thrombosis.

___ FINDINGS:The frontal sinuses are underdeveloped.  The 
ethmoid and sphenoid sinuses are clear.  The right maxillary 
sinus is small but well-aerated with a patent
ostiomeatal unit.  The left maxillary sinus is completely 
opacified, atelectatic, and the left ostiomeatal complexe is 
opacified.  The cribriform plates are intact.  The nasal septum 
is deviated to the left. The anterior clinoid processes are not 
pneumatized. The lamina papyracea are intact. The sphenoid sinus 
septum is midline with insertion upon the sellar floor.  The 
mastoid air cells and middle ear cavities are clear.
IMPRESSION: Atelectatic and completely opacified left maxillary 
sinus.  The paranasal
sinuses are otherwise clear.

___ MRA NECK W/ AND W/O CONTRAST: FINDINGS: 
The common, internal and external carotid arteries appear 
normal.  There is no evidence of stenosis by NASCET criteria. 
The origins of the great vessels, subclavian, and vertebral 
arteries appear normal bilaterally.  The common carotid 
bifurcations appear normal.  No evidence for dissection.
IMPRESSION:
1. Normal MRA neck.  No evidence for dissection.
 
Brief Hospital Course:
Ms. ___ is a ___ female with developmental CNS 
abnormalities including agenesis of the corpus callosum, 
colpocephaly,and Chiari malformation and a history of migraines 
who presented with new fevers, leukocytosis, and persistent 
headaches after a prior treatment for presumed Strep pneumo 
meningitis with 14 days of ceftriaxone. The patient was 
initially started on vancomycin, cefepime and acyclovir due to 
concern for bacterial or viral meningitis, but due to clinical 
stability the antibiotics were discontinued on ___ and the 
patient remained without fevers or systemic signs of infection 
for the remainder of hospitalization. 

She had persistent, ___ headaches during the course of 
hospital stay. The headaches persisted despite NSAIDs, triptans, 
metoclopramide, diphenhydramine, lorazepam, high-dose narcotics, 
gabapentin, tramadol, dexamethasone, IV valproate, IV Magnesium, 
and cyclobenzaprine. Chronic pain was consulted in-house and 
performed greater occipital, supraorbital, and auriculotemporal 
nerve blocks, which provided no relief.

Due to the fact that the patient showed no other signs of 
infection (despite a mild leukocytosis, which was downtrending 
by day of discharge) it was determined that it would be safe for 
her to be discharged home with close outpatient follow-up for 
continued pain control. She should follow up with 
neurology/headache clinic ASAP after discharge.

=============
ACTIVE ISSUES:
=============

# FEVERS, LEUKOCYTOSIS S/P S. PNEUMO MENINGITIS:
Initially admitted with new/recrudesced fevers at home after 
fully treatment with ceftriaxone, noted to have leukocytosis on 
admission. Afebrile since antibiotics discontinued. Leukocytosis 
initially resolved after discontinuation of antibiotics, but WBC 
count increasing again on ___. Patient with underlying 
structural neurologic deformities and recent history concerning 
for Strep pneumo meningitis s/p empiric ceftriaxone. Patient has 
re-presented with the same symptoms she has had over the course 
of the past month with the addition of recurrence of high grade 
fevers. Most recent CSF showed lymphocytic predominance. Concern 
for incompletely treated bacterial meningitis (perhaps due to 
unusual anatomy) vs. new meningitis (possibly introduced by tap 
or secondary infection) vs. separate source entirely. She was 
initially empirically re-treated with vancomycin, ceftriaxone, 
and acyclovir; patient defervesced and WBC count normalized, and 
antimicrobials were discontinued. Patient remained afebrile and 
without signs of infection. No evidence of active or reactivated 
infection was found. The patient was discharged on no 
antimicrobial therapy.

# HEADACHE: Persistent headache with photophobia has been 
ongoing since initial presentation with meningitis. Has been 
refractory to multiple medications, including hydromorphone 2mg 
IV, NSAIDs, triptans, metoclopramide, diphenhydramine, 
lorazepam, high-dose narcotics, gabapentin, tramadol, 
dexamethasone, IV valproate, IV Magnesium, and cyclobenzaprine. 
Chronic pain was consulted in-house and performed greater 
occipital, supraorbital, and auriculotemporal nerve blocks, 
which provided no relief. Discharged on topiramate, gabapentin, 
citalopram, tramadol 100mg q.6H prn. Also discharged with 
Cyclobenzaprine 5mg PRN in morning and lunch, 10mg PRN at 
bedtime and lorazepam PRN at bedtime, which helped the patient 
sleep.

Notably, had a period of severe recurrent headaches during teen 
years, the worst of which lasted for 2 months. These had 
resolved with Citalopram plus Gabapentin. She was able to 
discontinue these meds and has not needed them again for several 
years.  

# Sinus Opacification: Notes that she had sinus problems in 
___, and saw a physician who noted purulence of sinuses 
and recommended CT scan, which showed a completely opacified 
left maxillary sinus. ENT was consulted who recommended afrin 
nasal spray x3 days followed by fluticasone nasal spray x6 
weeks. There is no indication for invasive intervention on 
sinuses and it was felt that this sinus issue would be likely to 
cause her headaches or continued infectious symptoms.

# Macrocytic anemia: Noted incidentally on labs. Unclear if this 
has been worked up in past. Possibly megaloblastic in the 
setting of Vitamin B12/Folate deficiency vs. medication effect. 
TSH normal. B12, Folate levels within normal limits. Further 
workup of this macrocytic anemia is deferred to her outpatient 
providers.

EMERGENCY CONTACT HCP:  ___ (mother) ___   
Other Phone: ___
CODE STATUS: Full Code

=====================
TRANSITIONAL ISSUES:
=====================
[] Patient to follow up with ___ for 
continued outpatient management
[] Patient to follow up with Chronic Pain Anesthesia; attending 
for follow up is Dr. ___ (___).
[] Patient has PCP ___ ___.
[] Patient was re-started on citalopram 10 mg daily, which she 
has taken in the past.
[] Other new medications: 
- Gabapentin 600mg TID
- Tramadol 100mg q.6H PRN
- Lorazepam 1mg QHS PRN
- Cyclobenzaprine 10mg QHS PRN
- Cyclobenzaprine 5mg in morning and midday PRN
- Topiramate 25mg QD
- Fluticasone 50mcg IN 2 sprays qd
- Riboflavin 100mg QD
- Ondansetron 4mg ODT q.8H

 
Medications on Admission:
Acetaminophen 325-650 mg PO Q6H:PRN pain
DiphenhydrAMINE 12.5 mg PO Q6H:PRN headache 
Famotidine 20 mg PO DAILY (while on steroids).  
Gabapentin 800 mg PO TID
Ibuprofen 600 mg PO Q6H:PRN headache 
Metoclopramide 5 mg PO Q8H nausea 
PredniSONE 60 mg PO DAILY Duration: 3 Doses 
TraMADOL (Ultram) 50 mg PO Q6H:PRN breakthrough pain 
 
Discharge Medications:
1. Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
RX *fluticasone 50 mcg/actuation 2 spray IN once a day Disp #*1 
Spray Refills:*0
3. melatonin 5 mg oral QPM 
4. Riboflavin (Vitamin B-2) 100 mg PO DAILY 
RX *riboflavin (vitamin B2) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0
5. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron [Zofran ODT] 4 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*30 Tablet Refills:*0
6. Acetaminophen 1000 mg PO Q8H:PRN pain 
7. TraMADol 100 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 2 tablet(s) by mouth every six (6) hours Disp 
#*28 Tablet Refills:*0
8. Citalopram 10 mg PO DAILY 
RX *citalopram 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
9. LORazepam 1 mg PO QHS:PRN headache 
RX *lorazepam 1 mg 1 tablet by mouth at bedtime Disp #*7 Tablet 
Refills:*0
10. Cyclobenzaprine 10 mg PO HS:PRN insomnia, headache 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0
11. Cyclobenzaprine 5 mg PO MORNING AND NOON PRN headache, 
insomnia 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth morning and midday 
Disp #*30 Tablet Refills:*0
12. Topiramate (Topamax) 25 mg PO DAILY 
RX *topiramate 25 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Headache

Secondary Diagnosis:
- Fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ 
because you were having fever and headache. You were initially 
started on antibiotics due to concern for a bacterial 
meningitis. You were then taken off antibiotics and did not 
spike a fever or show signs of infection for several days, which 
is reassuring. 

You also had severe headache during your hospitalization. The 
neurologists and chronic pain service evaluated you, and 
unfortunately, despite trying many medications as well as trying 
a nerve block, we were unable to improve your headaches. 

You should follow up with the headache clinic after discharge, 
as well as with your primary care doctor.

If you develop any fevers, worsening headaches, neck 
stiffness/soreness, eye sensitivity, or other symptoms that 
concern you, please call your primary care doctor or return to 
the emergency room.

We wish you all the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___